US07741484B2
To a solution of 180 g of 2-Isopropyl-4-methoxy-phenol (1.084 moles) in 2.5 L toluene was added 206.7 g p-toluene sulfonylchloride (1.084 moles), and the reaction mixture was stirred vigorously The resultant mixture was cooled to 10° C., and triethylamine (3 mol) was gradually added, keeping the temperature below 50 degrees C. The reaction mixture was aged for 3 hours at approximately 50° C. and then allowed to cool to RT. An HPLC sample obtained at this point showed completion of the reaction. The resultant suspension was filtered and the filter-cake was washed with 300 mL toluene. The collected filtrate was distilled under vacuum until the pot-temperature reached 65° C., and 1 L of methanol was added to the mixture. The methanolic solution was stirred for 30 minutes at reflux; then the mixture was permitted to cool overnight. The white crystalline solid which separated was collected by filtration and dried at 50° C. under vacuum to yield a total of 332 grams of toluene-4-sulfonic acid 2-isopropyl-4-methoxy-phenyl ester, representing an yield of 95.7%:m.p. 85.1 degrees C.

reactant | 2-Isopropyl-4-methoxy-phenol | 1.084 moles, 180 g | C(C)(C)C1=C(C=CC(=C1)OC)O | C10H14O2
reactant | p-toluene sulfonylchloride | 1.084 moles, 206.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 3 mol | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.5 L | C1(=CC=CC=C1)C | C7H8
product | toluene-4-sulfonic acid 2-isopropyl-4-methoxy-phenyl ester | 332 grams, yield of 95.7% | C(C)(C)C1=C(C=CC(=C1)OC)OS(=O)(=O)C1=CC=C(C=C1)C | C17H20O4S
